US07759373B2
Ethyl 2-(4-chlorophenyl)-5-phenylthiazol-4-ylacetate (4.5 g) was dissolved in methanol (50 ml), and ammonia was saturated in the solution at 0° C. and the resulting mixture was allowed to stand at room temperature for 3 days. After removing the solvent, methanol was added to the residue. The resulting precipitate was collected and dried to obtain 2-(4-chloro-phenyl)-5-phenylthiazol-4-yl acetamide (4.2 g).

reactant | Ethyl 2-(4-chlorophenyl)-5-phenylthiazol-4-ylacetate | 4.5 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)CC(=O)OCC)C1=CC=CC=C1 | C19H16ClNO2S
reactant | ammonia | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-chloro-phenyl)-5-phenylthiazol-4-yl acetamide | 4.2 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)CC(=O)N)C1=CC=CC=C1 | C17H13ClN2OS
